US08067445B2
Step 2: (2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
To a solution of (2′-cyano-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.545 g, 1.5 mmol) and cobalt(II) chloride hexahydrate (0.71 g, 3.0 mmol) in MeOH (60 mL) and THF (24 mL) was added sodium borohydride (0.58 g, 15.3 mmol), and the reaction was stirred at room temperature for 2 hours. 2N Aqueous HCl (67 mL) was added, and the mixture was concentrated. 2N Aqueous NH4OH was added until the solution was basic, and the mixture was extracted twice with CH2Cl2. The combined organic layers were washed three times with H2O, dried over Na2SO4, filtered, and concentrated to give the title compound.

reactant | (2′-cyano-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 1.5 mmol, 0.545 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C#N)=O | C19H16F3NO3
reactant | sodium borohydride | 15.3 mmol, 0.58 g | [BH4-].[Na+]
reactant | HCl | 2N, 67 mL | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
catalyst | cobalt(II) chloride hexahydrate | 3.0 mmol, 0.71 g | O.O.O.O.O.O.[Co](Cl)Cl
product | (2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN)=O | C19H20F3NO3
